US09193692B2
A. 4-Bromo-1H-indazole
To a solution of 3-bromo-2-methylaniline (5 g, 27 mmol) in chloroform (1 mL) was added acetic anhydride (5 g, 27 mmol) at 0° C. and the mixture was stirred at room temperature for 1 h. Potassium acetate (0.75 g, 7.8 mmol) and isoamyl nitrite (0.78 g, 58 mmol) were added and the reaction mixture was refluxed for 18 h. The volatiles were removed under reduced pressure and water (0.65 mL) was added. The mixture was concentrated, diluted with concentrated hydrochloride acid (1 mL) and heated at 50° C. for 2 h. After being cooled to room temperature, aqueous sodium hydroxide solution (50%) was added until pH=10. The aqueous mixture was extracted with ethyl acetate (100 mL×3). The combined organic layer was washed with brine (150 mL), dried over anhydrous sodium sulfate, filtered, evaporated and purified on silica gel column (3% ethyl acetate in petroleum ether) to give the desired product (2.69 g, 34% yield) as a solid. MS (ESI): m/z 197.0 [M+1]+.

reactant | 3-bromo-2-methylaniline | 27 mmol, 5 g | BrC=1C(=C(N)C=CC1)C | C7H8BrN
reactant | acetic anhydride | 27 mmol, 5 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | Potassium acetate | 7.8 mmol, 0.75 g | C(C)(=O)[O-].[K+]
reactant | isoamyl nitrite | 58 mmol, 0.78 g | N(=O)OCCC(C)C | C5H11NO2
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-Bromo-1H-indazole | 2.69 g, 34% yield | BrC1=C2C=NNC2=CC=C1 | C7H5BrN2
